US05420275
3,4-Dimethoxycarbonyl-2-methoxy-5-nitro-6-phenylpyridine
In 25 ml of methanol was dissolved 1.2 g of 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine as obtained in Reference Example 18. To the solution was added 6.34 ml (2.0 eq.) of a solution of 1N sodium methoxide in methanol, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was neutralized with 0.2 ml (1.1 eq.) of acetic acid, and the solvent was distilled off. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride and dried. The solvent was distilled off. The residue was purified by silica gel column chromatography (eluent:ethyl acetate). The resulting crystals were collected by filtration with hexane.

reactant | 2-chloro-3,4-diethoxycarbonyl-5-nitro-6-phenylpyridine | 1.2 g | ClC1=NC(=C(C(=C1C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1 | C17H15ClN2O6
reactant | sodium methoxide | 1N | C[O-].[Na+]
reactant | acetic acid | 0.2 ml, 1.1 eq. | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
product | 3,4-Dimethoxycarbonyl-2-methoxy-5-nitro-6-phenylpyridine | COC(=O)C=1C(=NC(=C(C1C(=O)OC)[N+](=O)[O-])C1=CC=CC=C1)OC | C16H14N2O7
